US07410966B2
b) 6-Chloro-7-methoxy-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine
5-Chloro-4-methoxypyridin-2,3-diamine (0.500 g, 2.88 mmol) was dissolved in DMF (7 ml). Iron(III)chloride hexahydrate (0.062 g, 0.23 mmol) was added and the mixture heated to 80° C. 4-Nitrobenzaldehyde (0.434 g, 2.87 mmol) dissolved in DMF (4 ml) was added dropwise, and the reaction mixture was heated at 110° C. for 11 h with air bubbling through the solution. The DMF was removed by evaporation, the solid residue was dissolved in warm methanol and filtered through a short plug of silica gel. Following evaporation and recrystallization (methanol) the subtitle compound was isolated. Yield: 0.569 g (65%).

reactant | 5-Chloro-4-methoxypyridin-2,3-diamine | 2.88 mmol, 0.500 g | ClC=1C(=C(C(=NC1)N)N)OC | C6H8ClN3O
reactant | 4-Nitrobenzaldehyde | 2.87 mmol, 0.434 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | Iron(III)chloride hexahydrate | 0.23 mmol, 0.062 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | 6-Chloro-7-methoxy-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)[N+](=O)[O-])OC | C13H9ClN4O3
